Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pulled out G-J tube
 
Major Surgical or Invasive Procedure:
G-J tube replacement by ___
PICC line replacement

 
History of Present Illness:
___ yo male with mental retardation, CP, severe vision 
impairment, congenital deafness, presents from rehab s/p pulling 
out his G-J tube.  Pt is non-verbal, non-communicative, and pt's 
brother was unable to be contacted for further information.  
History obtained from outside medical records and per ED 
history. Pt was admitted to ___ from ___ 
___ on ___, after treatment for an MVA in which he 
sustained a c6-c7 fracture.  He suffered respiratory failure, 
and required tracheostomy, as well as neurogenic bladder for 
which he has a suprapubic catheter in place.  Per report from 
___, pt pulled out his PICC line and his G-J tube; Picc line 
was replaced ___.  It remains unclear exactly when pt's G-J was 
noted to be pulled.  He is currently undergoing treatment for 
pneumonia growing pseudomonas and beta strep with Ceftazime.  He 
also has significant decubitus ulcers, previously noted and 
receiving wound care at ___.  
.
Pt admitted to ___ for further care while awaiting replacement 
G-J tube.
.
Unable to obtain ROS d/t non-communicative.
 
Past Medical History:
Cerebral palsy
Mental retardation
Legally blind
congenital deafness
Neurogenic bladder; s/p suprapubic catheter placement
hx dCHF
L pulmonary apical nodule; further evaluation deferred
Hx MVA ___ C6-C7 fracture with incomplete cord injury; 
resulting ___ weakness and neurogenic bladder
G-J tube; presumed d/t aspiration risk
 
Social History:
___
Family History:
Unable to obtain further history at this time. Attempted to 
contact pt's brother, but not able to reach.
 
Physical Exam:
VS: 96.9 Ax  152/80  77  22  98% 35% Tc 
GEN: chronically ill appearing male, mentally retarded, moves 
arms freely.  Non-toxic.  
HEENT: eomi, MMM.  
Neck: Trach in place. No erythema.  
RESP: Coarse central rhonchi. Good AE. No wheezing.
CV: RRR. No mrg.  
ABD: +BS. Soft, NT/ND. Site of former G-J tube, with some local 
scar tissue. No bleeding or exudate.  Attempted to pass ___ Fr 
foley catheter, but met resistance; was not attempted further. 
No complications.  
Ext: No CEE.  
Neuro: Non-communicative, but +interactive.  Moves UE freely. 

 
Pertinent Results:
___ 06:20AM BLOOD WBC-10.5# RBC-3.38* Hgb-9.0* Hct-29.8* 
MCV-88 MCH-26.6* MCHC-30.1* RDW-16.2* Plt ___
___ 04:24AM BLOOD WBC-6.9 RBC-3.48* Hgb-9.2* Hct-30.0* 
MCV-86 MCH-26.4* MCHC-30.6* RDW-16.4* Plt ___
___ 09:00AM BLOOD WBC-10.8 RBC-3.57* Hgb-9.6* Hct-30.1* 
MCV-84 MCH-26.8* MCHC-31.9 RDW-17.2* Plt ___
___ 03:45PM BLOOD WBC-14.1* RBC-3.53* Hgb-9.6* Hct-29.5* 
MCV-84 MCH-27.1 MCHC-32.4 RDW-16.3* Plt ___
___ 08:26AM BLOOD Neuts-66.4 Lymphs-16.9* Monos-9.3 
Eos-6.8* Baso-0.6
___ 03:45PM BLOOD Neuts-79.8* Lymphs-12.2* Monos-3.9 
Eos-3.5 Baso-0.6
___ 03:08AM BLOOD ___ PTT-37.4* ___
___ 04:34AM BLOOD ___ PTT-32.8 ___
___ 03:45PM BLOOD ___ PTT-28.6 ___
___ 08:26AM BLOOD Glucose-122* UreaN-6 Creat-0.4* Na-137 
K-4.4 Cl-98 HCO3-35* AnGap-8
___ 04:34AM BLOOD Glucose-111* UreaN-8 Creat-0.3* Na-141 
K-3.7 Cl-103 HCO3-34* AnGap-8
___ 09:00AM BLOOD Glucose-90 UreaN-11 Creat-0.4* Na-135 
K-4.1 Cl-99 HCO3-28 AnGap-12
___ 03:45PM BLOOD Glucose-93 UreaN-23* Creat-0.4* Na-138 
K-4.8 Cl-99 HCO3-31 AnGap-13
___ 08:26AM BLOOD Calcium-8.9 Phos-3.7 Mg-1.9
___ 06:20AM BLOOD Calcium-8.8 Phos-2.8 Mg-1.9
___ 09:00AM BLOOD Calcium-9.6 Phos-2.9 Mg-1.9
___ 02:02PM URINE Color-Yellow Appear-Hazy Sp ___
___ 02:02PM URINE Blood-SM Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-5.0 Leuks-NEG
___ 02:02PM URINE RBC-49* WBC-0 Bacteri-NONE Yeast-NONE 
Epi-1
___ 02:02PM URINE Uric AX-MANY
___ 02:02PM URINE Mucous-MANY
___ 12:30AM URINE Hours-RANDOM UreaN-610 Creat-91 Na-81 
K-40 Cl-102
___ 12:30AM URINE Osmolal-538

___ 2:02 pm URINE,SUPRAPUBIC ASPIRATE      Source: 
Suprapubic. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    >100,000 ORGANISMS/ML.. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

___ 2:09 pm MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 

___ 2:15 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 
      Due to mixed bacterial types ( >= 3 colony types) an 
abbreviated
      workup will be performed appropriate to the isolates 
recovered from
      this site. 
      GRAM NEGATIVE ROD #1.    MODERATE GROWTH. 
      GRAM NEGATIVE ROD #2.    MODERATE GROWTH. 
      GRAM NEGATIVE ROD #3.    MODERATE GROWTH. 

___ REPLACE D OR J TUBE, ALL INCL. Study Date of ___ 2:17 
___ 
IMPRESSION: Successful insertion of a new 16 ___ MIC feeding 
tube into 
pre-existing tract with tip in the jejunum. The tube is ready 
for use. 

CHEST (PORTABLE AP) Study Date of ___ 4:48 ___ 
Tracheostomy tube appears appropriately positioned. Trace 
lucency outlines 
the aortic arch and descending aorta which may represent a trace 
amount of 
pneumomediastinum, to which attention should be paid on followup 
examination. 
The PICC line is again seen in unchanged position. No 
pneumothorax is 
appreciated. There is left perihilar haziness and increased 
opacity within 
the left hemithorax as well as at the right lung base which is 
not 
significantly changed and may reflect pulmonary edema, although 
a superimposed infection cannot be excluded. 
 

Portable TTE (Complete) Done ___ at 11:20:00 AM
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). The estimated cardiac index is normal 
(>=2.5L/min/m2). Right ventricular chamber size and free wall 
motion are normal. There is abnormal systolic septal 
motion/position consistent with right ventricular pressure 
overload. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. Pulmonary 
artery hypertension with right ventricular pressure overload 
septal pattern. The normal right ventricular cavity size and 
free wall motion suggests that the pulmonary hypertension is 
chronic, though cannot exclude acute on chronic process. 
 
Brief Hospital Course:
___ yo male with mental retardation, CP, trach collar, suprapubic 
catheter, ___ weakness and neurogenic bladder s/p MVA with 
cervical neck fracture with incomplete cord injury, and 
currently undergoing treatment for pneumonia with Ceftazidime, 
presented from ___ s/p pulling out G-J tube, which he 
needs for nutrition and aspiration risk.  

 
1. Pulled G-J tube  
Pt presented over the weekend, when ___ services were 
unavailable.  He was maintained on IV medications and IV 
hydration with glucose until G-J tube was replaced on ___.  
His G-J tube was replaced on ___ without complications.  He 
was monitored overnight.  His G-J tube is ready for use for 
medications and tube feeds.

2. Pneumonia, likely aspiration, bacterial  
Pt was being treated with Ceftazidime at ___ with a start 
date of ___ according to provided records.  He was continued 
on IV Ceftazidime throughout the hospitalization, He was 
receiving ___ Vancomycin for c-diff prophylaxis while on 
ceftazidime. During the hospitalization, he did not have any 
diarrhea; please note that tube feeds were held as well. During 
the hospitalization, a cap for his PICC became dislodged, and 
therefore his PICC was pulled and a new PICC was replaced on 
___.  A CXR confirmed correct placement.

On ___ he was transferred to the FICU due to increasing nursing 
load with suctioning his copious secretions. His scopalamine 
patch was removed and agressive suctioning was performed. He 
markedly improved, and was transferred back to the floor.

3. Moderate Malnutrition  
Pt was receiving tube feeds prior to his G-J tube being pulled.  
He was treated with D5NS while awaiting G-J tube replacement.  

4. Spinal cord injury  
Pt' suprapubic catheter remains in place without difficulties.  
His fentanyl patch was continued, gabapentin and baclofen were 
held due to loss of GI access.  His pain was treated with IV 
morphine as needed.  His previous medications should be resumed 
at time of discharge.

5 History of respiratory failure; hx trach 
Respiratory therapy followed throughout the hospitalization. He 
remained stable on trach collar and received frequent 
suctioning. He pulled his inner cannula, which was replaced by 
respiratory therapy.
  
# Mental retardation/CP 
His quetiapine was held due to loss of GI access, and 
subsequently resumed.  Anxiety was treated with IV ativan as 
needed, with good response. 

# Preexisting Decubitus ulcers  
Wound care was consulted and followed throughout the 
hospitalization.  He was continued on pain control as above.   
 ___ wound care Recommendations:
1. Pressure Redistribution - First Step, patient has full 
thickness pressure ulcers bilateral turning surfaces.
2. Cleanse wounds with commercial wound cleanser. Pat dry.
3. Apply DuoDerm wound gel to bilateral trochanter eschar caps, 
cover with Mepilex dressing. Change q 3 days.
4. cleanse ___ suprapubic catheter skin with warm water and 
mild soap, rinse and pat dry. Apply Critic aid clear skin 
barrier ointment daily to ___ tube skin.
5. Support nutrition, hydration, and comfort.
6. Assess Trach tube holder for increase pressure to posterior 
neck. Small stable eschar cap - place Mepilex 4x4 over site. 
Change q3 days.
7. Right Malleolous - apply Adaptic dressing, 4x4 and wrap with 
Kerlix, change daily.
8. Reposition patient q 2 hours.
.  
CODE: FULL
PPx: SQ Heparin; return to enoxaparin at time of discharge 
DISP: Discharged to Kindred.  

 
Medications on Admission:
lorazepam 0.5 mg IV q 4 hr prn
morphine 2 mg IV q 4hr prn
___ NS at 75 cc/hr
protein/soy supplement 37 cc/hr via feeding tube
baclofen 20 mg q 8hr via feeding tube
vancomycin 250 mg TID via feeding tube
ceftazidime 1 gm IV q 8 hr
water 250 ml q 4hr via feeding tube
simethicone 80 mg q 6hr prn via feeding tube 
nystatin 5 mg ___ QID
bismuth 30 ml q 6 hr prn via feeding tube
fentanyl 100 mcg/hr patch q 72 hr
lansoprazole 30 mg q day via feeding tube
gabapentin 600 mg q 8 hr via feeding tube
lactobacillus 1 tab q 8 hr via feeding tube
enoxaparin 40 mg SQ q day
ascorbic acid ___ mg q day via feeding tube
hyoscamine 0.125 mg q 6hr via feeding tube
oxycodone 10 mg q 4 hr prn via feeding tube
scopalamine patch q 72 hr
L-argenine/L-glutamine 1 packet BID via feeding tube
chlorhexadine 5 ml oral care q 12 hr
fluticasone 220mg INH BID
lidocaine patch q day
MVI 5 ml q day
docusate 100 mg q 12hr via feeding tube
senna 5 mg HS via feeding tube
quetiapine 25 mg HS via feeding tube
miconazole powder TOP BID
acetaminophen 650 mg via feeding tube prn
 
Discharge Medications:
1. Lorazepam 0.5 mg IV Q4H:PRN agitation 
2. Morphine Sulfate ___ mg IV Q4H:PRN pain 
3. protein/soy supplement
37 cc/hr via feeding tube
4. baclofen 20 mg Tablet Sig: One (1) Tablet ___ every eight (8) 
hours:  via feeding tube.  
5. vancomycin 250 mg Capsule Sig: One (1) Capsule ___ three times 
a day:  via feeding tube, until completion of ceftazidime.  
6. ceftazidime 1 gram Recon Soln Sig: One (1) gm Intravenous 
every eight (8) hours for 3 days: Anticipate course complete 
___ for 10 day course. .  
7. water     Liquid Sig: Two Hundred Fifty (250) mL ___ every 
four (4) hours:  via feeding tube.  
8. fentanyl 100 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
9. lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___ a day:  via feeding tube.  
10. gabapentin 600 mg Tablet Sig: One (1) Tablet ___ every eight 
(8) hours:  via feeding tube.  
11. enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) inj 
Subcutaneous once a day.  
12. ascorbic acid ___ mg Tablet Sig: One (1) Tablet ___ once a 
day.  
13. hyoscyamine sulfate 0.125 mg Tablet Sig: One (1) Tablet ___ 
every six (6) hours as needed for abdominal pain:  via feeding 
tube.  
14. oxycodone 10 mg Tablet Sig: One (1) Tablet ___ every four (4) 
hours as needed for pain.  
15. scopolamine base 1.5 mg Patch 72 hr Sig: One (1) patch 
Transdermal every ___ (72) hours.  
16. L-arginine/L-glutamine
1 packet via feeding tube BID
17. chlorhexidine gluconate 0.12 % Mouthwash Sig: Five (5) ML 
Mucous membrane BID (2 times a day).  
18. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
19. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
20. multivitamin     Tablet Sig: One (1) Tablet ___ once a day.  
21. senna 8.6 mg Tablet Sig: One (1) Tablet ___ twice a day.  
22. quetiapine 25 mg Tablet Sig: One (1) Tablet ___ at bedtime.  
23. miconazole nitrate 2 % Powder Sig: One (1) app Topical twice 
a day.  
24. acetaminophen 325 mg Tablet Sig: Two (2) Tablet ___ three 
times a day:  via feeding tube.  
25. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
PICC, heparin dependent: Flush with 10mL Normal Saline followed 
by Heparin as above daily and PRN per lumen. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Pulled G-J tube
# Pneumonia, likely aspiration, bacterial (prior to admission)
# Spinal cord injury
# History of respiratory failure; required trach 
# Mental retardation/CP
# Decubitus ulcers (pre-existing)

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
You were admitted after pulling out your G-J tube.  You were 
treated with IV fluids and IV medications while awaiting G-J 
tube replacement.  Your tube was replaced by Interventional 
Radiology and you are being discharged back to your rehab 
facility.
 
Followup Instructions:
___